US08012956B2
To a solution of L-4-hydroxyphenylglycine (1.00 g, 5.98 mmol) and sodium hydrogencarbonate (2.50 g, 29.11 mmol) in a mixture of 1,4-dioxane (20 mL) and water (20 mL) was added di-tert-butyl dicarbonate (1.40 g, 6.58 mmol) at 0° C., followed by stirring at room temperature for 18 hours. The organic portion of the solvent was evaporated, and the reaction mixture was partitioned between ethyl acetate (300 mL) and 0.5M aqueous hydrochloric acid (50 mL). The organic layer was separated and washed with 0.5M aqueous hydrochloric acid, water and brine, dried over sodium sulfate, filtered and the solvent concentrated to give (S)-2-(tert-butoxycarbonylamino)-2-(4-hydroxyphenyl)acetic acid (1.6 g, quantitative). 1H NMR (400 MHz, CDCl3): 8.80 (bs, 1H), 7.12 (d, 2H), 6.62 (d, 2H), 5.80 (d, 1H), 5.00 (d, 1H), 1.22 (s, 9H). MS (EI) for C13H17NO5: 266 (M−H).

reactant | L-4-hydroxyphenylglycine | 5.98 mmol, 1.00 g | C1=CC(=CC=C1[C@@H](C(=O)O)N)O | C8H9NO3
reactant | sodium hydrogencarbonate | 29.11 mmol, 2.50 g | C(O)([O-])=O.[Na+]
reactant | di-tert-butyl dicarbonate | 6.58 mmol, 1.40 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 20 mL | O | H2O
product | (S)-2-(tert-butoxycarbonylamino)-2-(4-hydroxyphenyl)acetic acid | 1.6 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C1=CC=C(C=C1)O | C13H17NO5
